data/polar.json
{"reaction_name": "Phospha-Michael addition", "rsmi": "[CH3:1][CH2:5][O:4][C:37]([CH:2]=[C:6]([CH3:39])[N:47]=[N:15][C:3](=[O:16])[NH:30][c:40]1[cH:45][cH:10][cH:41][cH:11][cH:46]1)=[O:17].[c:7]1([P:38]([c:8]2[cH:19][cH:25][c:43]([N:13]([CH3:33])[CH3:34])[cH:26][cH:20]2)[c:9]2[cH:21][cH:27][c:44]([N:14]([CH3:35])[CH3:36])[cH:28][cH:22]2)[cH:18][cH:24][c:42]([N:12]([CH3:31])[CH3:32])[cH:29][cH:23]1>>[CH3:1][CH2:5][O:4][C:37]([CH:2]([C:6]([CH3:39])=[N:47][N:15]=[C:3]([O-:16])[NH:30][c:40]1[cH:45][cH:10][cH:41][cH:11][cH:46]1)[P+:38]([c:7]1[cH:18][cH:24][c:42]([N:12]([CH3:31])[CH3:32])[cH:29][cH:23]1)([c:8]1[cH:19][cH:25][c:43]([N:13]([CH3:33])[CH3:34])[cH:26][cH:20]1)[c:9]1[cH:21][cH:27][c:44]([N:14]([CH3:35])[CH3:36])[cH:28][cH:22]1)=[O:17]", "epd": [["LP-/Sigma+", [38], [38, 2]], ["Pi-/Pi+", [2, 6], [6, 47]], ["Pi-/Pi+", [47, 15], [15, 3]], ["Pi-/LP+", [3, 16], [16]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]([CH:7]1[N+:13](=[CH:3][CH:25]=[CH:8][c:19]2[cH:4][cH:14][cH:2][cH:15][cH:5]2)[CH:12]([CH2:26][c:23]2[cH:27][cH:10][cH:16][cH:11][cH:28]2)[C:18](=[O:6])[N:24]1[CH3:17])([CH3:20])([CH3:21])[CH3:22].[Cl-:9]>>[C:1]([CH:7]1[N:13]([CH:3]=[CH:25][CH:8]([Cl:9])[c:19]2[cH:4][cH:14][cH:2][cH:15][cH:5]2)[CH:12]([CH2:26][c:23]2[cH:27][cH:10][cH:16][cH:11][cH:28]2)[C:18](=[O:6])[N:24]1[CH3:17])([CH3:20])([CH3:21])[CH3:22]", "epd": [["LP-/Sigma+", [9], [9, 8]], ["Pi-/Pi+", [8, 25], [25, 3]], ["Pi-/LP+", [3, 13], [13]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:1][n+:19]1[o:39][n:27][c:22]2[c:25]3[n+:17]([O-:34])[o:14][n:36][c:26]3[c:35]([N+:16]([O-:37])=[O:40])[cH:23][c:42]12.[c:2]1([P:18]([c:3]2[cH:10][cH:30][cH:6][cH:31][cH:11]2)([c:4]2[cH:12][cH:32][cH:7][cH:33][cH:13]2)=[CH:38][C:24]([O:20][CH2:15][CH3:41])=[O:21])[cH:8][cH:28][cH:5][cH:29][cH:9]1>>[O-:1][n+:19]1[o:39][n:27][c:22]2[c:42]1[CH:23]([CH:38]([P+:18]([c:2]1[cH:8][cH:28][cH:5][cH:29][cH:9]1)([c:3]1[cH:10][cH:30][cH:6][cH:31][cH:11]1)[c:4]1[cH:12][cH:32][cH:7][cH:33][cH:13]1)[C:24]([O:20][CH2:15][CH3:41])=[O:21])[C:35](=[N+:16]([O-:37])[O-:40])[c:26]1[c:25]-2[n+:17]([O-:34])[o:14][n:36]1", "epd": [["Pi-/Sigma+", [38, 18], [38, 23]], ["Pi-/Pi+", [23, 35], [35, 16]], ["Pi-/LP+", [16, 40], [40]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[c:1]1([C:12]([C:10]#[N:11])=[C:22]([O:18][CH2:25][CH3:7])[O-:19])[cH:26][cH:28][cH:20][cH:29][cH:27]1.[c:2]12[c:5]([cH:15][cH:13][cH:23][cH:8]1)-[c:6]1[c:3]([cH:9][cH:24][cH:14][cH:16]1)[N+:21]2=[CH:4][CH3:17]>>[c:1]1([C:12]([CH:4]([CH3:17])[n:21]2[c:2]3[c:5]([c:6]4[c:3]2[cH:9][cH:24][cH:14][cH:16]4)[cH:15][cH:13][cH:23][cH:8]3)([C:10]#[N:11])[C:22]([O:18][CH2:25][CH3:7])=[O:19])[cH:26][cH:28][cH:20][cH:29][cH:27]1", "epd": [["LP-/Pi+", [19], [22, 19]], ["Pi-/Sigma+", [12, 22], [12, 4]], ["Pi-/LP+", [4, 21], [21]]]}
{"reaction_name": "Isoquinolinium-forming cyclodehydration", "rsmi": "[O:1]=[CH:2][c:3]1[cH:4][cH:5][cH:6][cH:7][c:8]1[CH:9]=[CH:10][N:11]([H:13])[CH3:12].[H+:14]>>[n+:11]1([CH3:12])[cH:2][c:3]2[cH:4][cH:5][cH:6][cH:7][c:8]2[cH:9][cH:10]1.[O:1]([H:13])[H:14]", "epd": [["LP-/Sigma+", [1], [1, 14]], ["LP-/Sigma+", [11], [2, 11]], ["Pi-/LP+", [1, 2], [1]], ["LP-/Sigma+", [1], [1, 13]], ["Sigma-/LP+", [11, 13], [11]], ["LP-/Pi+", [11], [2, 11]], ["Sigma-/LP+", [1, 2], [1]]]}
{"reaction_name": "Hantzsch thiazole synthesis", "rsmi": "[CH3:1][C:2](=[O:3])[C:4]([H:10])([Br:5])[H:11].[N:6]([H:12])([H:13])[C:7](=[S:8])[CH3:9]>>[CH3:1][c:2]1[n:6][c:7]([CH3:9])[s:8][c:4]([H:10])1.[O:3]([H:12])[H:13].[Br:5][H:11]", "epd": [["Sigma-/Pi+", [2, 3], [2, 4]], ["Pi-/Sigma+", [2, 3], [2, 6]], ["Sigma-/Sigma+", [4, 5], [4, 8]], ["Pi-/Pi+", [7, 8], [6, 7]], ["Sigma-/Sigma+", [4, 11], [5, 11]], ["Sigma-/Sigma+", [6, 12], [3, 12]], ["Sigma-/Sigma+", [6, 13], [3, 13]]]}
{"reaction_name": "Crown-ether-assisted substitution", "rsmi": "[Br:1][CH2:2][CH3:3].[F-:4]>>[Br-:1].[CH2:2]([CH3:3])[F:4]", "epd": [["LP-/Sigma+", [4], [2, 4]], ["Sigma-/LP+", [1, 2], [1]]]}
{"reaction_name": "Oxocarbenium-to-alkene elimination", "rsmi": "[CH3:1][C+:3]([CH2:2][H:7])[O:6][CH3:5].[OH2:4]>>[CH3:1][C:3](=[CH2:2])[O:6][CH3:5].[OH2+:4][H:7]", "epd": [["LP-/Sigma+", [4], [4, 7]], ["Sigma-/Pi+", [2, 7], [2, 3]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:1](#[N:9])[C:18]([C:2]#[N:10])=[CH:3][c:22]1[cH:5][cH:12][cH:23][cH:13][cH:6]1.[O-:4][c:19]1[cH:14][c:11](=[O:15])[n:20]([CH3:8])[c:17](=[O:7])[n:21]1[CH3:16]>>[C:1](=[N-:9])=[C:18]([C:2]#[N:10])[CH:3]([CH:14]1[C:11](=[O:15])[N:20]([CH3:8])[C:17](=[O:7])[N:21]([CH3:16])[C:19]1=[O:4])[c:22]1[cH:5][cH:12][cH:23][cH:13][cH:6]1", "epd": [["LP-/Pi+", [4], [19, 4]], ["Pi-/Sigma+", [14, 19], [14, 3]], ["Pi-/Pi+", [3, 18], [18, 1]], ["Pi-/LP+", [1, 9], [9]]]}
